US07091228B2
N-(4-Iodo-2-fluorophenyl)-6-chloro-1,3-benzothiazol-2-amine
A mixture of 2,6-dichlorobenzothiazole (1.0 g, 4.9 mmol) and 2-fluoro-4-iodoaniline (2.32 g, 9.8 mmol) in 20 mL BuOH was stirred at 90° C., and then HCl (4 M in dioxane, 1.0 mL) was added. The reaction mixture was stirred with heating at 90° C. overnight, under argon. NMR analysis then showed little 2,6-dichlorobenzothiazole remaining. After BuOH was removed by rotary evaporation, EtOAc (100 mL) and 1 N aqueous HCl (100 mL) were added. The organic layer was separated and washed with 1 N aqueous HCl (100 mL), saturated Na2O2S3 solution (50 mL), water (100 mL), and then dried over Na2SO4. Removal of solvent under reduced pressure afforded a residue, which was triturated with EtOAc (10 mL) and hexanes (40 mL). The solid was filtered and dried in vacuo to a constant weight, to afford the desired product as a light purple solid (0.75 g, 38%). 1H NMR (DMSO-d6) δ 10.45 (s, 1H), 8.35 (t, 1H), 7.95 (s, 1H), 7.70 (d, 1H), 7.58 (d, 2H), 7.30 (d, 1H).

reactant | 2,6-dichlorobenzothiazole | 4.9 mmol, 1.0 g | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | 2-fluoro-4-iodoaniline | 9.8 mmol, 2.32 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | HCl | 4 M, 1.0 mL | Cl | ClH
solvent | BuOH | 20 mL | C(CCC)O | C4H10O
product | N-(4-Iodo-2-fluorophenyl)-6-chloro-1,3-benzothiazol-2-amine | 0.75 g, 38% | IC1=CC(=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)Cl)F | C13H7ClFIN2S
